US05571775
68. Preparation of N-(2,6-Difluorophenyl)-5,8-dimethoxy[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide
N-(2,6-Difluorophenyl)-5-chloro-8-methoxy[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide (1.0 g, 2.7 mmol), sodium methoxide (25 percent in methanol, 2.5 mL, 0.58 g, 11 mmol) and dimethyl sulfoxide (20 mL) were mixed with stirring and slowly heated to 70° C. over a 40-min period. After a short reaction period, the reaction mixture was acidified with acetic acid and diluted With dichloromethane and water. The solid that separated was recovered by filtration. The organic layer was separated, was washed several times with water, and was concentrated by evaporation under reduced pressure. The residue obtained was washed with water and combined with the previously obtained solid. The combined solids were washed with ether and hexane and dried to obtain 0.7 g of the title compound as an off-white powder melting at 319°-320° C.(d).

reactant | N-(2,6-Difluorophenyl)-5-chloro-8-methoxy[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide | 2.7 mmol, 1.0 g | FC1=C(C(=CC=C1)F)NS(=O)(=O)C1=NN2C(C(=CC=C2Cl)OC)=N1 | C13H9ClF2N4O3S
reactant | sodium methoxide | 11 mmol, 2.5 mL, 0.58 g | C[O-].[Na+]
reactant | dimethyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-(2,6-Difluorophenyl)-5,8-dimethoxy[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide | 0.7 g | FC1=C(C(=CC=C1)F)NS(=O)(=O)C1=NN2C(C(=CC=C2OC)OC)=N1 | C14H12F2N4O4S
